US07390797B2
5-Chloro-6,7-dihydro-2H-benzo[5,6]azepino[4,3,2-cd]indazol-7-one
To a solution of 1.02 g of 5-chloro-2,6-dihydrodibenzo[cd,g]indazol-6-one [synthesized from 1,4-dichloroanthraquinone [CAS No. 602-25-5] as a starting material according to the method described in Patent No. WO-0112609] in 5 ml concentrated sulfuric acid was added 0.78 g of sodium azide [CAS No. 26628-22-8], followed by stirring at room temperature for 2 days. The reaction mixture was poured onto 50 ml of ice-water, the precipitated powder was collected by filtration and dried in vacuo. The powder was dissolved in 10 ml of dimethylformamide and 5 ml of ethyl acetate was added. To the suspension was added saturated aqueous sodium hydrogencarbonate solution, and stirred. The crystals were collected by filtration, sequentially washed with hydrous dimethylformamide and water and dried in vacuo, to give 647 mg of the title compound as green crystals.

reactant | 5-chloro-2,6-dihydrodibenzo[cd,g]indazol-6-one | 1.02 g | ClC=1C=CC=2NN=C3C4=C(C(C1C23)=O)C=CC=C4 | C14H7ClN2O
reactant | 1,4-dichloroanthraquinone | ClC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Cl | C14H6Cl2O2
reactant | sodium azide | 0.78 g | [N-]=[N+]=[N-].[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Chloro-6,7-dihydro-2H-benzo[5,6]azepino[4,3,2-cd]indazol-7-one | 647 mg | ClC1=C2C=3C(=NNC3C=C1)C1=C(C(N2)=O)C=CC=C1 | C14H8ClN3O
